US08476297B2
To a pear-shaped flask was added 5-bromo-2-chloropyridine (440 mg, 2286 μmol), dry THF (10 mL), and an ice bath. After stirring for 5 min, a 2M solution of isopropylmagnesium chloride (1.15 mL, 2300 μmol) was added. The solution was allowed to stir in the ice bath for 2 h, then transferred to a solution of 3,4-dihydroisoquinoline (165 mg, 1258 μmol), dry THF (5 mL), and benzyl chloroformate (0.20 mL, 1350 μmol) that had been stirring in an ice bath for 15 min. The solution was allowed to warm to RT. After 1 h, LC-MS indicated only partial conversion. Another 2 eq of the Grignard were prepared as described above and added to the reaction. After a further 15 h, LC-MS shows no further progress. The reaction was poured into sat'd Rochelle's salt and extracted with EtOAc (3×20 mL). The combined organics were washed with brine and concentrated in vacuo and adsorbed onto a plug of silica gel and chromatographed through a Redi-Sep® pre-packed silica gel column (12 g), eluting with 0% to 20% EtOAc in hexanes, to provide crude benzyl 1-(6-chloropyridin-3-yl)-3,4-dihydro-isoquinoline-2(1H)-carboxylate as a yellow oil. The crude oil was carried into the next step.

reactant | 5-bromo-2-chloropyridine | 2286 μmol, 440 mg | BrC=1C=CC(=NC1)Cl | C5H3BrClN
reactant | isopropylmagnesium chloride | 2300 μmol, 1.15 mL | C(C)(C)[Mg]Cl
reactant | 3,4-dihydroisoquinoline | 1258 μmol, 165 mg | C1=NCCC2=CC=CC=C12 | C9H9N
reactant | benzyl chloroformate | 1350 μmol, 0.20 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | Rochelle's salt | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | benzyl 1-(6-chloropyridin-3-yl)-3,4-dihydro-isoquinoline-2(1H)-carboxylate | ClC1=CC=C(C=N1)C1N(CCC2=CC=CC=C12)C(=O)OCC1=CC=CC=C1 | C22H19ClN2O2
